US04202834
2-(2-Cyano-3,3-Diphenylacryloxy)Ethyl 3-Allyloxy-2-Hydroxypropyl Ether
Into a round bottom flask was charged 29 g. (0.1 moles) of 2-hydroxyethyl 2-cyano-3,3-diphenylacrylate, 12.4 g. (0.11 moles) of allyl glycidyl ether and 250 mg. of tetramethylammonium chloride. The flask was stoppered and the mixture was heated at 50° C. for 16 hours. Then cooled mixture was diluted with 50 ml. methylene dichloride, treated with decolonizing charcoal and filtered. The filtrate was evaporated, leaving a pale yellow oil characterized as the product.

reactant | 2-hydroxyethyl 2-cyano-3,3-diphenylacrylate | 0.1 moles | C(#N)C(C(=O)OCCO)=C(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15NO3
reactant | allyl glycidyl ether | 0.11 moles | C(C1CO1)OCC=C | C6H10O2
reactant | charcoal | C | CH4
catalyst | tetramethylammonium chloride | [Cl-].C[N+](C)(C)C
solvent | methylene dichloride | C(Cl)Cl | CH2Cl2
product | 2-(2-Cyano-3,3-Diphenylacryloxy)Ethyl 3-Allyloxy-2-Hydroxypropyl Ether | C(C=C)OCC(COCCOC(C(=C(C1=CC=CC=C1)C1=CC=CC=C1)C#N)=O)O | C24H25NO5
